US04766222
Preparation of cyclopentanpropionyl carnitine chloride
Carnitine chloride (1.97 g; 0.01 moles) was dissolved in trifluoroacetic acid (10 cc). To the resulting solution 3-cyclopentanpropionyl chloride (1.60 g; 0.01 moles) was slowly added under stirring. The resulting mixture was kept under stirring at 45° C. overnight. The mixture was then cooled, acetone (40 ml) was added and the mixture was kept under stirring for 2 hours in ice. The precipitate thus formed was filtered off and to the filtrate ethyl ether was added. The white solid which precipitated was dissolved in ethanol-acetone (5:1) and once again precipitated with ether. M.P. 170°-172° C., yield 90%.

reactant | Carnitine chloride | 0.01 moles, 1.97 g | C[N+](C)(C)CC(CC(=O)[O-])O | C7H15NO3
reactant | 3-cyclopentanpropionyl chloride | 0.01 moles, 1.60 g | C1CC(CC1)CCC(=O)Cl | C8H13ClO
reactant | acetone | 40 ml | CC(=O)C | C3H6O
solvent | trifluoroacetic acid | 10 cc | FC(C(=O)O)(F)F | C2HF3O2
product | cyclopentanpropionyl carnitine chloride | yield 90% | C1(CCCC1)CCC(=O)C(O)(C[N+](C)(C)C)CC([O-])=O.[Cl-] | InChI=1S/C15H27NO4.ClH/c1-16(2,3)11-15(20,10-14(18)19)13(17)9-8-12-6-4-5-7-12;/h12,20H,4-11H2,1-3H3;1H/p-1
